US08487093B2
Step 1: Benzyl 4-[(tert-butoxycarbonyl)amino]piperidine-1-carboxylate
4-(N—BOC amino) piperidine (17 kg, 84.88 mol) was dissolved in DCM (90 kg), triethylamine (10.14 kg, 100.16 mol) was added, and the resulting solution was cooled to 0-5° C. Benzyl chloroformate (16.51 kg, 96.76 mol) was added over 45 minutes while keeping the temperature at <25° C., after which the solution was aged for 30 minutes at 20° C. 2 M HCl (61 kg, 118.13 mol) was then added over 10 minutes while keeping the temperature at <25° C. The mixture was agitated for 10 minutes and then the agitation was stopped and the phases were allowed to separate. The phases were then separated from each other, and the organic phase was distilled in vacuo to a volume of 35 L. Isopropyl acetate (89 kg) was then added, and the batch was concentrated by vacuum distillation at less than 35° C. to a volume of 50 L to crystallize the title product. Heptane (47 kg) was then added over 10 minutes, and the resulting slurry cooled to and aged at 20° C. for 20 minutes, after which the aged slurry was filtered, washed with heptane (17 kg), and dried by N2 sweep on the filter to give the title product as a white solid (24.7 kg, 87%). 1H NMR (CDCl3) 7.33 (5H, m), 5.13 (2H, s), 4.47 (1H, m), 4.11 (2H, m), 3.61 (1H, m), 2.93 (2H, m), 1.94 (2H, m), 1.45 (9H, s) and 1.30 (2H, m).

reactant | 4-(N—BOC amino) piperidine | 84.88 mol, 17 kg | C(=O)(OC(C)(C)C)NC1CCNCC1 | C10H20N2O2
reactant | triethylamine | 100.16 mol, 10.14 kg | C(C)N(CC)CC | C6H15N
reactant | Benzyl chloroformate | 96.76 mol, 16.51 kg | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | HCl | 118.13 mol, 2 M, 61 kg | Cl | ClH
solvent | DCM | 90 kg | C(Cl)Cl | CH2Cl2
product | Benzyl 4-[(tert-butoxycarbonyl)amino]piperidine-1-carboxylate | 24.7 kg, 87% | C(C)(C)(C)OC(=O)NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C18H26N2O4
